US07531532B2
2-{[4-(2-Dimethylaminoethyl)piperazin-1-yl]carbonylamino}-4-{2-fluoro-4-[3-(2-phenylacetyl)ureido]phenoxy}pyridine
To a solution of 4-(4-amino-2-fluorophenoxy)-2-{[4-(2-dimethylaminoethyl)piperazin-1-yl]carbonylamino}pyridine (87.4 mg) in tetrahydrofuran (4.5 ml) was added a solution of 2-phenylacetyl isocyanate in hexane (0.25 M, 2.2 ml) at room temperature, followed by stirring overnight. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with brine and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate, then ethyl acetate:methanol=95:5) to provide the titled compound (82 mg, 67%) as white powder.

reactant | 4-(4-amino-2-fluorophenoxy)-2-{[4-(2-dimethylaminoethyl)piperazin-1-yl]carbonylamino}pyridine | 87.4 mg | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCN(CC2)CCN(C)C)C=C1)F | C20H27FN6O2
reactant | 2-phenylacetyl isocyanate | C1(=CC=CC=C1)CC(=O)N=C=O | C9H7NO2
solvent | tetrahydrofuran | 4.5 ml | O1CCCC1 | C4H8O
solvent | hexane | 0.25 M, 2.2 ml | CCCCCC | C6H14
product | 2-{[4-(2-Dimethylaminoethyl)piperazin-1-yl]carbonylamino}-4-{2-fluoro-4-[3-(2-phenylacetyl)ureido]phenoxy}pyridine | 82 mg, 67% | CN(CCN1CCN(CC1)C(=O)NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=O)NC(CC1=CC=CC=C1)=O)F)C | C29H34FN7O4
